US09085583B2
Step 1: (Z)-ethyl 2-azido-3-(thiazol-5-yl)acrylate
To a solution of thiazole-5-carbaldehyde (20 g, 176.77 mmol) and ethyl 2-azidoacetate (91.2 g, 707.1 mmol) in anhydrous ethanol (100 mL) was added sodium (16.26 g, 707.1 mmol) dissolved in anhydrous ethanol (1000 mL) dropwise between −10° C. and 0° C. After the addition, the mixture was stirred below 0° C. for 4 hours, and then warm to the ambient temperature and allowed to stir overnight. The reaction mixture was washed with saturated ammonium chloride, extracted with acetic ester (500 mL×3), the combined organic phase was dried by anhydrous sodium sulphate, and then filtered. The filtrate was concentrated and purified by column chromatograph on silica gel eluted with (petrol ether/acetic ester 20:1-10:1) to afford the title compound (9 g, 23%) as an yellow solid. LCMS (M+H+) m/z: calcd. 224.04. found 224.9.

reactant | thiazole-5-carbaldehyde | 176.77 mmol, 20 g | S1C=NC=C1C=O | C4H3NOS
reactant | ethyl 2-azidoacetate | 707.1 mmol, 91.2 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | sodium | 707.1 mmol, 16.26 g | [Na] | Na
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | ethanol | 1000 mL | C(C)O | C2H6O
product | (Z)-ethyl 2-azido-3-(thiazol-5-yl)acrylate | 9 g, 23% | N(=[N+]=[N-])\C(\C(=O)OCC)=C/C1=CN=CS1 | C8H8N4O2S
